US08084489B2
A solution of 5-(2-hydroxy-1,1-dimethyl-ethyl)-thiophene-2-carboxylic acid (0.495 g, 2.47 mmol) in DMF (12.0 mL) is treated with K2CO3 (0.515 g, 3.73 mmol), iodomethane (0.23 mL, 3.69 mmol), and stirred at rt overnight. The mixture is poured into H2O (25 mL) and extracted with EtOAc (3×25 mL). The combined extracts are washed with H2O, brine, dried over MgSO4, filtered, and concentrated. The residue is loaded onto silica gel and eluted with hexanes using a gradient of 0% to 75% EtOAc to give 5-(2-hydroxy-1,1-dimethyl-ethyl)-thiophene-2-carboxylic acid methyl ester (0.439 g, 83%). MS (ES): 215.1 [M+H]+.

reactant | 5-(2-hydroxy-1,1-dimethyl-ethyl)-thiophene-2-carboxylic acid | 2.47 mmol, 0.495 g | OCC(C)(C)C1=CC=C(S1)C(=O)O | C9H12O3S
reactant | K2CO3 | 3.73 mmol, 0.515 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 3.69 mmol, 0.23 mL | IC | CH3I
reactant | H2O | 25 mL | O | H2O
solvent | DMF | 12.0 mL | CN(C)C=O | C3H7NO
product | 5-(2-hydroxy-1,1-dimethyl-ethyl)-thiophene-2-carboxylic acid methyl ester | 0.439 g, 83% | COC(=O)C=1SC(=CC1)C(CO)(C)C | C10H14O3S
